US05179611
sorbitan monostearate;
sorbitan monooleate; and sorbitan monolaurate

reactant | sorbitan monooleate | CCCCCCCC/C=C\CCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C24H44O6
reactant | sorbitan monolaurate | CCCCCCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C18H34O6
product | sorbitan monostearate | CCCCCCCCCCCCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C24H46O6
